US07160887B1
A mixture of 2-fluoronitrobenzene (1.1 g, 10 mmols), methyl p-hydroxyphenylacetate (1.7 g, 10 mmols) and potassium carbonate (1.4 g, 10 mmols) was stirred at 140° C. for 1 hour. The reaction mixture was diluted with ethyl acetate, then washed with water, and thereafter dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure to give an oil of methyl 4-(2-nitrophenoxy)phenylacetate (2.78 g, 96.9%).

reactant | 2-fluoronitrobenzene | 10 mmols, 1.1 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | methyl p-hydroxyphenylacetate | 10 mmols, 1.7 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 10 mmols, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(2-nitrophenoxy)phenylacetate | 2.78 g, 96.9% | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)CC(=O)OC)C=CC=C1 | C15H13NO5
